US04559339
Preparation of 7-[(1-[2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(5H,7H)-dione hydrate, Isomer 1
7-[(1-[2(R)-((1,1-Dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione (120 mg, 0.19 mmole) was dissolved in 3 ml of glacial acetic acid and treated at 10° with 48 mg (0.77 mmole) of sodium cyanoborohydride. After twenty minutes, the reaction mixture was poured into 50 ml of water, extracted with ethyl acetate (4×40 ml) and the combined organic extracts were washed with saturated sodium bicarbonate solution and brine, then dried (MgSO4) and concentrated. The crude product was purified by preparative thick layer chromatography on silica gel (98:2 chloroform-methanol, multiple elutions) to give the analytical product as isomer 1, the faster eluting component.

reactant | 7-[(1-[2(R)-((1,1-Dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione | 0.19 mmole, 120 mg | CC(C)(OC(=O)N[C@@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C | C36H39N5O5
reactant | sodium cyanoborohydride | 0.77 mmole, 48 mg | C(#N)[BH3-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 7-[(1-[2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(5H,7H)-dione hydrate | O.CC(C)(OC(=O)N[C@@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C | InChI=1S/C36H39N5O5.H2O/c1-21(2)18-28(39-35(45)46-36(3,4)5)34(44)40-20-22(23-12-7-10-16-29(23)40)19-27-31-37-26-15-9-6-13-24(26)33(43)41(31)30-17-11-8-14-25(30)32(42)38-27;/h6-17,21-22,27-28H,18-20H2,1-5H3,(H,38,42)(H,39,45);1H2/t22?,27?,28-;/m1./s1
